US04351969
118 g (0.5 mol) of 2,2,6,6-tetrachlorocyclohexanone and 1 g (0.006 mol) of hexamethylphosphorotriamide were introduced into the reactor used in Example 1. The reaction mixture was heated at 150°-180° C., under stirring; the reaction was terminated when the evolution of hydrogen chloride from the reaction mixture ceased. The reaction mixture was then distilled under reduced pressure (boiling point (20 mm Hg)=100° C.) to yield 52 g of 2,6-dichlorophenol.

reactant | 2,2,6,6-tetrachlorocyclohexanone | 0.5 mol, 118 g | ClC1(C(C(CCC1)(Cl)Cl)=O)Cl | C6H6Cl4O
reactant | hexamethylphosphorotriamide | 0.006 mol, 1 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2,6-dichlorophenol | 52 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
